US06066657
Cyclopropyl-(7-methoxybenzofuran-2-yl)-methanone
To a stirred solution of 7-methoxybenzofuran (3.0 g) in tetrahydrofuran (60 ml) cooled to -78° C. under an atmosphere of nitrogen was added dropwise n-butyllithium (1.6M in hexanes, 15.2 ml). After stirring at -78° C. for 30 minutes, magnesium bromide diethyl etherate (6.3 g) was added in single portion and the reaction mixture allowed to warm to 0° C. and stirred for 30 minutes. Cyclopropyl cyanide (1.8 ml) was then added dropwise and the mixture allowed to warm slowly to room temperature and stirred for 18 h. Aqueous hydrochloric acid (2M, 50 ml) was added to the reaction mixture and stirring continued for 1 h. The mixture was extracted with ethyl acetate (250 ml), then washed successively with water (50 ml) and brine (50 ml). The organic layer was separated and dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by flash chromatography on silica eluting with 5-20% ethyl acetate in hexane afforded the title compound as a yellow oil (0.96 g).

reactant | 7-methoxybenzofuran | 3.0 g | COC1=CC=CC=2C=COC21 | C9H8O2
reactant | n-butyllithium | 1.6M, 15.2 ml | C(CCC)[Li]
reactant | magnesium bromide diethyl etherate | 6.3 g | CCOCC.[Mg+2].[Br-].[Br-]
reactant | Cyclopropyl cyanide | 1.8 ml | C1(CC1)C#N | C4H5N
reactant | hydrochloric acid | 2M, 50 ml | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | Cyclopropyl-(7-methoxybenzofuran-2-yl)-methanone | 0.96 g | C1(CC1)C(=O)C=1OC2=C(C1)C=CC=C2OC | C13H12O3
